US06864265B2
Preparation of 5-tert-Butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
Reaction 5-tert-butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (276 mg, 1.09 mmol), 2.5 M n-BuLi (567 uL, 1.42 mmol), and DMF (253 uL, 3.27 mmol) for 2 h at −40° C. gave the title compound (304 mg, 99%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ0.00 (s, 9H), 0.91 (t, 2H, J=9.0 Hz), 1.33 (s, 9H), 3.57 (t, 2H, J=7.5 Hz), 5.72 (s, 2H), 7.10 (s, 1H), 9.80 (s, 1H).

reactant | 5-tert-butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 1.09 mmol, 276 mg | C(C)(C)(C)C1=CN=CN1COCC[Si](C)(C)C | C13H26N2OSi
reactant | n-BuLi | 1.42 mmol, 2.5 M, 567 uL | [Li]CCCC
reactant | DMF | 3.27 mmol, 253 uL | CN(C)C=O | C3H7NO
product | 5-tert-Butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 304 mg, 99% | C(C)(C)(C)C1=CN=C(N1COCC[Si](C)(C)C)C=O | C14H26N2O2Si
